US07723330B2
Step A: Preparation of (E)-2-(2-(pyridin-2-yl)hydrazono)acetaldehyde:
A mixture of the 1-(pyridin-2-yl)hydrazine (2.00 g, 18.33 mmol), water (13 mL), and acetic acid (10.49 ml, 183.3 mmol) was added with stirring into a 40% aqueous solution of glyoxal (10.51 ml, 91.63 mmol) over 20 minutes. Stirring was continued for 18 hours and then the aqueous was extracted with EtOAc. The diluted aqueous layer was slowly basified with sodium hydrogen carbonate (15.40 g, 183.3 mmol). The resulting solids were collected by filtration and washed with water to afford 1.65 g (85%) of the desired product and dimer. LRMS (apci pos): 150 (M+H).

reactant | 1-(pyridin-2-yl)hydrazine | 18.33 mmol, 2.00 g | N1=C(C=CC=C1)NN | C5H7N3
reactant | acetic acid | 183.3 mmol, 10.49 ml | C(C)(=O)O | C2H4O2
reactant | glyoxal | 91.63 mmol, 10.51 ml | C(=O)C=O | C2H2O2
reactant | sodium hydrogen carbonate | 183.3 mmol, 15.40 g | C(O)([O-])=O.[Na+]
solvent | water | 13 mL | O | H2O
product | (E)-2-(2-(pyridin-2-yl)hydrazono)acetaldehyde | 1.65 g, 85% | N1=C(C=CC=C1)N\N=C\C=O | C7H7N3O
